US06432982B1
4-[2-(1-Piperidinyl)ethoxy]-3-chlorobenzoic Acid
7.1 g (35.4 mmol) of 3-chloro-4-hydroxy ethylbenzoate was dissolved in 250 mL of DMF and 13.1 g (71 mmol) of 1-(2-chloroethyl)piperidine hydrochloride and 52 g (160 mmol) of Cs2CO3 was added. The reaction mixture was heated to reflux for four hours. The reaction was allowed to cool and evaporated to dryness. The residue was dissolved in 80 mL of MeOH and 40 mL of 1 N NaOH was added. The reaction mixture was heated to reflux for two hours and cooled to 0° C. The reaction mixture was acidified with 5 N HCl and placed at −20° C. for sixteen hours. The product crystallized out and was filtered off. This yielded 26 g of the title compound as a white powder.

reactant | 1-(2-chloroethyl)piperidine hydrochloride | 71 mmol, 13.1 g | Cl.ClCCN1CCCCC1
reactant | Cs2CO3 | 160 mmol, 52 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | DMF | 250 mL | CN(C)C=O | C3H7NO
product | 4-[2-(1-Piperidinyl)ethoxy]-3-chlorobenzoic Acid | N1(CCCCC1)CCOC1=C(C=C(C(=O)O)C=C1)Cl | C14H18ClNO3
